US05908858
69(i) N-(4-Methoxy-3-methylbenzylidene)-4-sulfamoylaniline
Following a procedure similar to that described in Example 1(i), but using 4-methoxy-3-methylbenzaldehyde and 4-sulfamoylaniline as starting materials, the title compound was obtained as a yellow powder (yield 92%).

reactant | 4-methoxy-3-methylbenzaldehyde | COC1=C(C=C(C=O)C=C1)C | C9H10O2
reactant | 4-sulfamoylaniline | S(N)(=O)(=O)C1=CC=C(N)C=C1 | C6H8N2O2S
product | N-(4-Methoxy-3-methylbenzylidene)-4-sulfamoylaniline | COC1=C(C=C(C=NC2=CC=C(C=C2)S(N)(=O)=O)C=C1)C | C15H16N2O3S
